US07834051B2
(2S)-2-[(3-chlorophenyl)amino]propan-1-ol
A solution of (2S)-2-aminopropan-1-ol (11.7 g), 1-chloro-3-iodobenzene (36.1 g), tripotassium phosphate (66.4 g), copper iodide (1.42 g) and ethylene glycol (16.7 mL) in propane-2-ol (155 mL) was stirred at 80° C. for 24 hr under an argon atmosphere. Water (500 mL) was added to the reaction solution, and the mixture was extracted with diethyl ether. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=0→30%) to give the title compound as a colorless oil (yield: 26.9 g, 97%).

reactant | (2S)-2-aminopropan-1-ol | 11.7 g | N[C@H](CO)C | C3H9NO
reactant | 1-chloro-3-iodobenzene | 36.1 g | ClC1=CC(=CC=C1)I | C6H4ClI
reactant | tripotassium phosphate | 66.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethylene glycol | 16.7 mL | C(CO)O | C2H6O2
solvent | propane-2-ol | 155 mL | CC(C)O | C3H8O
catalyst | copper iodide | 1.42 g | [Cu](I)I
solvent | Water | 500 mL | O | H2O
product | (2S)-2-[(3-chlorophenyl)amino]propan-1-ol | yield: 26.9 g, 97% | ClC=1C=C(C=CC1)N[C@H](CO)C | C9H12ClNO
